USRE041128E1
An epoxy cresol novolac resin (ECN 1299) was dissolved in a 75:25 solvent solution of ethylacetate:PGMEA to obtain a reaction mixture having a solids content of approximately 20% by weight. Equimolar amounts of 4-hydroxybenzoic acid were added to the reaction mixture. BTEAC was added to the mixture (2% by weight, based upon the weight of epoxy cresol novolac resin), and the reaction mixture was heated to 120° C. in an oil bath under a nitrogen atmosphere for twenty-four hours. The reaction mixture was cooled and formulated into an anti-reflective coating (at a solids content of approximately 5% by weight) by the addition of trimethylolpropane trivinylether (crosslinking agent, obtained from Aldrich Chemical Company) and p-TSA as the catalyst for crosslinking at a temperature of 205° C. Tables 5 and 6 set forth the respective formulations of the mother liquor and anti-reflective coating compositions.

reactant | epoxy cresol | O1C2=C(C(=CC=C21)O)C | C7H6O2
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
product | PGMEA | CC(COC)OC(=O)C | C6H12O3
